US05001125
A mixture of 5.2 parts of 3,6-diiodopyridazine, 3.5 parts of 1-[3-(trifluoromethyl)phenyl]piperazine. 3.2 parts of sodium carbonate and 90 parts of N,N-dimethylacetamide was stirred and heated overnight at 70° C. The reaction mixture was poured onto water. The precipitated product was filtered off and crystallized from 2-propanol, yielding 3.2 parts (48%) of 3-iodo-6-[4-[3-(trifluoromethyl)phenyl]-1-piperazinyl]pyridazine; mp. 144.6° C. (compound 202).

reactant | 3,6-diiodopyridazine | IC=1N=NC(=CC1)I | C4H2I2N2
reactant | 1-[3-(trifluoromethyl)phenyl]piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3-iodo-6-[4-[3-(trifluoromethyl)phenyl]-1-piperazinyl]pyridazine | 48% | IC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C15H14F3IN4
